US08030311B2
Step 3.1: 3′-Chloro-2-trifluoromethyl-biphenyl-4-amine
A mixture of 5-amino-2-bromobenzotrifluoride (Dakwood Products, Inc.) (500 mg, 2.1 mMol), 3-chlorophenylboronic acid (970 mg, 6.2 mMol, 3 equiv) (Aldrich), Pd(PPh3)4 (70 mg, 0.018 mMol, 0.03 equiv), Na2CO3 (2 M solution in H2O, 5 mL, 10 mMol, 4.76 equiv), and toluene (14 mL) is stirred at reflux for 1 h. The reaction mixture is allowed to cool to rt and filtered through a pad of celite, washing the filter cake with CH2Cl2 and H2O. The layers are separated and the aqueous phase is extracted with CH2Cl2 (2×60 mL). The combined organic phase is washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. MPLC (CH3CN/H2O/TFA) purification of the crude material affords the title compound: MS: 270.0 [M-2]−; HPLC DtRet=4.9.

reactant | 5-amino-2-bromobenzotrifluoride | 2.1 mMol, 500 mg | NC=1C=CC(=C(C1)C(F)(F)F)Br | C7H5BrF3N
reactant | 3-chlorophenylboronic acid | 6.2 mMol, 970 mg, 3 equiv | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 10 mMol, 2 M, 5 mL, 4.76 equiv | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.018 mMol, 70 mg, 0.03 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | 3′-Chloro-2-trifluoromethyl-biphenyl-4-amine | ClC=1C=C(C=CC1)C1=C(C=C(C=C1)N)C(F)(F)F | C13H9ClF3N
